US08633173B2
198 b) To an oven dried tube was added 8-(4-bromo-phenyl)-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (0.90 g, 2.9 mmol), methylphosphinoylmethane (0.24 g, 3.1 mmol) (prepared as described in WO2005/009348), palladium acetate (13.5 mg, 0.0601 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (36.0 mg, 0.0622 mmol), cesium carbonate (1422.0 mg, 4.3644 mmol) and 1,4-dioxane (9 mL). The tube was evacuated, carefully, and backflushed with nitrogen. The tube was sealed and heated at 90° C. for 24 hours then cooled to room temperature, diluted with dichloromethane (30 mL), filtered through a plug of diatomaceous earth and evaporated. The residue was purified via chromatography using an ISCO automated purification apparatus (silica gel column 40 g and 0%→7% dichloromethane:methanol). 2-Chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine was isolated as a white solid (0.303 g, 34%). MP=220-223° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.55 (d, J=6.9 Hz, 1H), 8.11 (d, J=7.7 Hz, 2H), 7.94-7.86 (m, 2H), 7.77 (t, J=7.4 Hz, 1H), 7.21 (t, J=6.9 Hz, 1H), 1.80 (s, 3H), 1.77 (s, 3H). MS=306, 308 (MH)+.

reactant | 8-(4-bromo-phenyl)-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.9 mmol, 0.90 g | BrC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)Cl | C12H7BrClN3
reactant | methylphosphinoylmethane | 3.1 mmol, 0.24 g | CP(=O)C | C2H7OP
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.0622 mmol, 36.0 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 4.3644 mmol, 1422.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.0601 mmol, 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)P(=O)(C)C)=N1 | C14H13ClN3OP
